US07981903B2
To a suspension of 2,4-dichloro-5-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (535 mg, 1.50 mmol) and 2-amino-6-fluorobenzoic acid (233 mg, 1.50 mmol) in isopropanol (5 mL) was added diisopropylethylamine (971 mg, 7.51 mmol) and the mixture was heated at 85° C. for ˜48 h. At this time the reaction was diluted with ethyl acetate (100 ml) and washed with a solution of 1N HCl, a saturated solution of sodium bicarbonate and a saturated solution of NaCl, then dried over sodium sulfate. Solvents were removed under reduced pressure to afford a solid containing about 60% 2-({2-chloro-6-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzoic acid (726 mg, 1.52 mmol). This material was dissolved in THF (10 mL) and DMF (few drops) and a solution of 2M oxalyl chloride in dichloromethane (0.90 mL, 1.80 mmol) was added dropwise. LCMS analysis indicated a small amount of starting material remained so an additional 0.1 eq of oxalyl chloride was added. The reaction mixture was cooled in an ice bath and filtered via a buchner funnel and the solid washed with THF. The solid was dried under reduced pressure to afford 5-chloro-8-fluoro-2-methyl-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one HCl salt (280 mg, 0.0.57 mmol). ESIMS (M+H)+=457

reactant | 2,4-dichloro-5-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 1.50 mmol, 535 mg | ClC=1N=C(C2=C(N1)N(C=C2C)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C14H11Cl2N3O2S
reactant | 2-amino-6-fluorobenzoic acid | 1.50 mmol, 233 mg | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | diisopropylethylamine | 7.51 mmol, 971 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-({2-chloro-6-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzoic acid | 1.52 mmol, 726 mg | ClC=1N=C(C2=C(N1)N(C(=C2)C)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)O)C(=CC=C2)F | C21H16ClFN4O4S
reactant | oxalyl chloride | 2M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 1.80 mmol, 0.90 mL | ClCCl | CH2Cl2
reactant | oxalyl chloride | 0.1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-chloro-8-fluoro-2-methyl-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one HCl salt | 280 mg | Cl.ClC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=C(N2S(=O)(=O)C2=CC=C(C=C2)C)C | InChI=1S/C21H14ClFN4O3S.ClH/c1-11-6-8-13(9-7-11)31(29,30)27-12(2)10-14-18-24-16-5-3-4-15(23)17(16)20(28)26(18)21(22)25-19(14)27;/h3-10H,1-2H3;1H
